US07056918B2
1-Cyclopentyl-5-[2-(2-methoxy-ethyl)-5-m-tolyl-3H-imidazol-4-yl]-3-methyl-1,3-dihydro-benzoimidazol-2-one
N-[2-(1-Cyclopentyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-2-oxo-1-m-toly-ethyl]-3-methoxy-propionamide (294 mg, 0.65 mmol) was stirred with ammonium trifluoroacetate (857 mg, 6.5 mmol) and the mixture was heated to 150 deg C. in an oil bath. Occasionally, the sides of the flask were rinced down with methanol to insure all reactants were heated uniformly. A TLC (ethyl acetate) of the reaction mixture after 1 hour of heating showed complete reaction. The oil bath was removed, and hot water was added to the reaction mixture as it cooled. When the mixture reached room temperature, no precipitate formed, so the aqueous mixture was extracted with ethyl acetate (2×20 mL). The combined organic phase was washed with water and dried over anhydrous sodium sulfate to afford 240 mg of a tan solid. MS (M+1)=431.3.

reactant | N-[2-(1-Cyclopentyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-2-oxo-1-m-toly-ethyl]-3-methoxy-propionamide | 0.65 mmol, 294 mg | C1(CCCC1)N1C(N(C2=C1C=CC(=C2)C(C(C=2C=C(C=CC2)C)NC(CCOC)=O)=O)C)=O | C26H31N3O4
reactant | ammonium trifluoroacetate | 6.5 mmol, 857 mg | FC(C(=O)[O-])(F)F.[NH4+]
reactant | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Cyclopentyl-5-[2-(2-methoxy-ethyl)-5-m-tolyl-3H-imidazol-4-yl]-3-methyl-1,3-dihydro-benzoimidazol-2-one | 240 mg | C1(CCCC1)N1C(N(C2=C1C=CC(=C2)C=2NC(=NC2C=2C=C(C=CC2)C)CCOC)C)=O | C26H30N4O2
